### PR TITLE
feat(Topology/MetricSpace/HausdorffDistance): characterize joint minimizers via infDist

### PR DESCRIPTION
**Pull request by bocowgill**
This PR adds `Metric.exists_forall_dist_le_iff_forall_infDist_le`, a generic profiling theorem for pseudometric spaces. Assuming the distance from `a` to `U` is attained, it says that `a` can be paired with some `u ∈ U` whose distance is bounded by every pair in `A × U` if and only if

`Metric.infDist a U ≤ Metric.infDist a' U`

for every `a' ∈ A`.

The theorem profiles out the `U` variable and is intended for later minimization arguments, including least-squares and Frisch–Waugh–Lovell (FWL) partialling-out applications.

The projection lemmas originally included here were split into #43645 following review feedback.

---

### LLM disclosure

I used OpenAI Codex substantially for planning, Lean implementation, responding to review feedback, and local validation. I reviewed the statement and proof line by line and can explain them.

For the current revision, I ran a targeted build of `Mathlib.Topology.MetricSpace.HausdorffDistance`, the style and environment linters, signature and axiom checks, a placeholder scan, and `git diff --check`.

### CODE REVIEW

**Comment by bocowgill** [comment]
LLM-generated

File: Mathlib/Analysis/InnerProductSpace/Projection/Basic.lean [hunk 1]
```diff
@@ -222,6 +222,54 @@ theorem starProjection_minimal {U : Submodule 𝕜 E} [U.HasOrthogonalProjection
...
+
+When `f` is the function underlying a continuous linear map `B : G →L[𝕜] E`, linearity rewrites
+the projected residual as `Uᗮ.starProjection y - (Uᗮ.starProjection ∘L B) z`. -/
+theorem exists_forall_norm_sub_add_apply_le_iff_forall_norm_starProjection_orthogonal_sub_apply_le
+    {G : Type*} {U : Submodule 𝕜 E} [U.HasOrthogonalProjection]
+    (f : G → E) (y : E) (z : G) :
+    (∃ u : U, ∀ (u' : U) (z' : G),
+      ‖y - ((u : E) + f z)‖ ≤ ‖y - ((u' : E) + f z')‖) ↔
+      ∀ z' : G,
+        ‖Uᗮ.starProjection (y - f z)‖ ≤ ‖Uᗮ.starProjection (y - f z')‖ := by
```
Comment (wwylele) [inline Mathlib/Analysis/InnerProductSpace/Projection/Basic.lean]: This looks a bit weird. Without looking at the proof, here is my thought process when parsing it:

First, the function `f : G → E` looks suspicious, as the type `G` carries no information about it. In fact, this can be replaced with a set `s : Set E`. Then `f z` is just a specific point `x ∈ s`, and `∀ z' : G, (... f z' ...)` is equivalent to `∀ x' ∈ s, (... x' ...)`, thus removing `G` from the lemma

Let's do some transformation on the LHS
```
‖y - ((u : E) + f z)‖ ≤ ‖y - ((u' : E) + f z')‖
↔ ‖y - x - u‖ ≤ ‖y - x' - u'‖
```
Note now the term `y - x` appears on both LHS and RHS, so is `y - x'`. We can also write their set membership `y - x ∈ {y} - s` and `y - x' ∈ {y} - s`, showing that they belongs to the same set `t := {y} - s`. All of this means we can replace `y - x` with a single variable `a := y - x ∈t`, and `y - x'` with `a' := y - x' ∈t`. We can then remove `y` from the theorem. Now it becomes

```
theorem foo
    {U : Submodule 𝕜 E} [U.HasOrthogonalProjection] (t : Set E)
    (a : E) (ha : a ∈ t) :
    (∃ u : U, ∀ (u' : U) (a' : E) (_ : a' ∈ t), ‖a - u‖ ≤ ‖a' - u'‖) ↔
      ∀ a' ∈ t, ‖Uᗮ.starProjection a‖ ≤ ‖Uᗮ.starProjection a'‖ := by
```
RHS is really saying that "`a` is the closest point to `U` among the set `t`" (after transforming by `starProjection_orthogonal_val`). LHS says "there exists a point `u` on U such that `dist a u` is the smallest among all possible `dist (point in t) (point on U)`. Now this reads more like a intuitive lemma. 

Sorry for mumbling without a clear suggestion. Perhaps you can show how you plan to use this lemma so we can find a better form of it

Comment (bocowgill) [reply Mathlib/Analysis/InnerProductSpace/Projection/Basic.lean]: Thanks for this reply. The intended downstream specialization has `U` as the subspace generated by one block of regressors and `f z` as the fitted value from another block. 

- Joint least squares then minimizes `‖y - (u + f z)‖`. More precisely -- joint least squares then minimizes the squared norm, `‖y - (u + f z)‖²`, while the theorem uses the norm, but these have the same minimizers.
- Then after fixing z, the relevant residual is `a := y - f z`, and the candidate residual set is `t := Set.range (fun z' ↦ y - f z')`.

In the intended application, `f` comes from a continuous linear map—say `B : G →L[𝕜] E`. That directly explains why the original statement used a parameter type `G`. I can definitely see that your formulation captures the underlying geometry more directly. My original statement follows by specialization. 

As a next step, I will investigate replacing the parameterized theorem with the set-based core theorem. Let me know if that's something you'd like to see. In particular, let me know if you prefer the set theorem to replace the parameterized theorem entirely? Or whether the parameterized statement should remain as a corollary. Thanks!

Comment (wwylele) [reply Mathlib/Analysis/InnerProductSpace/Projection/Basic.lean]: Here is a retelling of the same lemma in an abstract metric space
```
theorem foo {E : Type*} [MetricSpace E] [ProperSpace E] (A U : Set E) (hU : U.Nonempty) (hUclosed : IsClosed U) (a : E) :
    (∃ u ∈ U, ∀ (u' a' : E), u' ∈ U → a' ∈ A → dist a u ≤ dist a' u') ↔ 
    (∀ a' ∈ A, ⨅ u : U, dist a u ≤ ⨅ u : U, dist a' u) := by
  have : Nonempty U := Set.Nonempty.to_subtype hU
  constructor
  · intro h a' ha'
    apply ciInf_mono_of_forall_exists ⟨0, (by simp [mem_lowerBounds])⟩
    intro u' 
    obtain ⟨u, humem, hu⟩ := h
    use ⟨u, humem⟩
    apply hu 
    · apply u'.prop
    · apply ha'
  · intro h
    simp_rw [← Metric.infDist_eq_iInf] at h
    obtain ⟨u, humem, hu⟩ := hUclosed.exists_infDist_eq_dist hU a
    use u, humem
    intro u' a' hu' ha'
    rw [← hu]
    apply (h a' ha').trans 
    exact Metric.infDist_le_dist_of_mem hu'
```
(notice how the RHS is just about `Metric.infDist`)

Comment (bocowgill) [reply Mathlib/Analysis/InnerProductSpace/Projection/Basic.lean]: Thank you again again. I have now implemented the set/`Metric.infDist` reformulation in [628d5bfbdb](https://github.com/leanprover-community/mathlib4/pull/42483/commits/628d5bfbdbbd36b8f181dc44f72910a83e4a278d). Let me know if you can see it. 

- The parameterized theorem has been entirely replaced by `Submodule.exists_forall_norm_sub_le_iff_forall_infDist_le`, stated for `(A : Set E) (a : E)`. 
- As you suggested, its right-hand side is now directly about `Metric.infDist`. I also replaced the earlier `iInf` helper with `Submodule.norm_starProjection_orthogonal_eq_infDist`.

I kept the result in the `Submodule` setting under `[U.HasOrthogonalProjection]`. This supplies the nearest-point attainment needed for the reverse implication without requiring `[ProperSpace E]`. Requiring that would exclude potential infinite-dimensional Hilbert-space applications.

Note that I did not retain the original parameterized theorem as a public corollary. I verified separately that it follows by taking `A = Set.range (fun z' ↦ y - f z')` and `a = y - f z`, so the intended regression/FWL application is preserved.

Thank you again. Your comments helped expose the underlying geometry much more directly.

File: Mathlib/Analysis/InnerProductSpace/Projection/Basic.lean [hunk 2]
```diff
@@ -222,6 +222,65 @@ theorem starProjection_minimal {U : Submodule 𝕜 E} [U.HasOrthogonalProjection
...
+  · calc
+      Metric.infDist y U ≤
+          dist y (U.orthogonalProjectionOnto y : E) :=
+        Metric.infDist_le_dist_of_mem
+          (U.orthogonalProjectionOnto y).property
+      _ = ‖y - (U.orthogonalProjectionOnto y : E)‖ :=
+        dist_eq_norm y (U.orthogonalProjectionOnto y : E)
+      _ = ‖Uᗮ.starProjection y‖ := by
+        rw [U.starProjection_orthogonal_val,
+          U.coe_orthogonalProjectionOnto_apply]
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Projection/Basic.lean]:
```suggestion
  simp [Metric.infDist_eq_iInf, U.starProjection_orthogonal_val,
    U.starProjection_minimal, dist_eq_norm]
```

File: Mathlib/Analysis/InnerProductSpace/Projection/Basic.lean [hunk 3]
```diff
@@ -222,6 +222,65 @@ theorem starProjection_minimal {U : Submodule 𝕜 E} [U.HasOrthogonalProjection
...
+between any point in `A` and any point in `U` if and only if the distance from `a` to `U` is no
+greater than the distance from any point in `A` to `U`. When `a ∈ A`, this characterizes joint
+minimizers of the distance on `A × U`.
+
+Taking `A = Set.range (fun z' ↦ y - f z')` and `a = y - f z` gives the abstract
+partialling-out principle underlying the Frisch–Waugh–Lovell theorem. -/
+theorem exists_forall_norm_sub_le_iff_forall_infDist_le
+    {U : Submodule 𝕜 E} [U.HasOrthogonalProjection] (A : Set E) (a : E) :
+    (∃ u : U, ∀ (u' : U) (a' : A), ‖a - u‖ ≤ ‖(a' : E) - u'‖) ↔
+      ∀ a' : A, Metric.infDist a U ≤ Metric.infDist (a' : E) U := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Projection/Basic.lean]: It's uncommon to consider `a' : A` where `A : Set E`. Instead, you generally want to take `a' : E` and `ha' : a' ∈ A` instead. That is, *unbundle* the set membershop from the element itself. Likewise for `u u' : U`.

Comment (j-loreaux) [reply Mathlib/Analysis/InnerProductSpace/Projection/Basic.lean]: Also, what does this have to do with `Submodule`s with an orthogonal projection aside from the fact that `Metric.infDist` is attained?

File: Mathlib/Analysis/InnerProductSpace/Projection/Basic.lean (hunk 2 above)
Comment (bocowgill) [reply Mathlib/Analysis/InnerProductSpace/Projection/Basic.lean]: Applied, thanks! The proof now uses the suggested `simp`.

File: Mathlib/Analysis/InnerProductSpace/Projection/Basic.lean (hunk 3 above)
Comment (bocowgill) [reply Mathlib/Analysis/InnerProductSpace/Projection/Basic.lean]: Thanks! I have moved the core theorem to the `Metric` namespace in `Mathlib.Topology.MetricSpace.HausdorffDistance`. I also unbundled membership in both sets, and generalized the assumptions to `[PseudoMetricSpace α]` together with the single attainment hypothesis

```lean
∃ u ∈ U, Metric.infDist a U = dist a u
```

The submodule-specific profiling theorem has been removed. Now, the orthogonal projection appears only in `Submodule.norm_starProjection_orthogonal_eq_infDist`, which supplies the bridge needed for the intended regression/FWL application. Separately, I also verified in a scratch file that the original regression-parameterized statement follows from the new public API.

**Comment by bocowgill** [comment]
-awaiting-author

**Comment by bocowgill** [comment]
@j-loreaux: friendly ping. I addressed the review comments, all conversations are resolved, and CI is green. If convenient, are you willing to have another look? Thank you.

File: Mathlib/Analysis/InnerProductSpace/Projection/Basic.lean [hunk 4]
```diff
@@ -222,6 +222,13 @@ theorem starProjection_minimal {U : Submodule 𝕜 E} [U.HasOrthogonalProjection
   rw [starProjection_apply, U.norm_eq_iInf_iff_inner_eq_zero (Submodule.coe_mem _)]
   exact starProjection_inner_eq_zero _
 
+/-- The norm of the orthogonal projection of `y` onto `Uᗮ` is `Metric.infDist y U`. -/
+theorem norm_starProjection_orthogonal_eq_infDist
+    {U : Submodule 𝕜 E} [U.HasOrthogonalProjection] (y : E) :
+    ‖Uᗮ.starProjection y‖ = Metric.infDist y U := by
+  simp [Metric.infDist_eq_iInf, U.starProjection_orthogonal_val,
+    U.starProjection_minimal, dist_eq_norm]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Projection/Basic.lean]: how about

```suggestion
theorem dist_starProjection_eq_infDist
    (U : Submodule 𝕜 E) [U.HasOrthogonalProjection] (y : E) :
    dist y (U.starProjection y) = Metric.infDist y U := by
  simp [Metric.infDist_eq_iInf, U.starProjection_minimal, dist_eq_norm]
```

and then you can have this as a corollary?

File: Mathlib/Topology/MetricSpace/HausdorffDistance.lean [hunk 5]
```diff
@@ -508,6 +508,28 @@ lemma le_infDist {r : ℝ} (hs : s.Nonempty) : r ≤ infDist x s ↔ ∀ ⦃y⦄
...
+      ∀ a' ∈ A, infDist a U ≤ infDist a' U := by
+  constructor
+  · rintro ⟨u, huU, hmin⟩ a' ha'A
+    rw [le_infDist ⟨u, huU⟩]
+    intro u' hu'U
+    exact (infDist_le_dist_of_mem huU).trans (hmin u' hu'U a' ha'A)
+  · intro h
+    obtain ⟨u, huU, hu⟩ := hattain
+    refine ⟨u, huU, ?_⟩
+    intro u' hu'U a' ha'A
```
Comment (themathqueen) [inline Mathlib/Topology/MetricSpace/HausdorffDistance.lean]: style nit:
```suggestion
  refine ⟨fun ⟨u, huU, hmin⟩ a' ha'A ↦ ?_, fun h ↦ ?_⟩
  · rw [le_infDist ⟨u, huU⟩]
    intro u' hu'U
    exact (infDist_le_dist_of_mem huU).trans (hmin u' hu'U a' ha'A)
  · obtain ⟨u, huU, hu⟩ := hattain
    refine ⟨u, huU, fun u' hu'U a' ha'A ↦ ?_⟩
```

File: Mathlib/Analysis/InnerProductSpace/Projection/Basic.lean (hunk 4 above)
Comment (bocowgill) [reply Mathlib/Analysis/InnerProductSpace/Projection/Basic.lean]: Applied in `cefdb22709`, thanks! I added `Submodule.dist_starProjection_eq_infDist` and retained `Submodule.norm_starProjection_orthogonal_eq_infDist` as a corollary.

File: Mathlib/Topology/MetricSpace/HausdorffDistance.lean (hunk 5 above)
Comment (bocowgill) [reply Mathlib/Topology/MetricSpace/HausdorffDistance.lean]: Applied in `cefdb22709`, thanks! I adopted the suggested proof structure.

**Comment by bocowgill** [comment]
-awaiting-author

File: Mathlib/Analysis/InnerProductSpace/Projection/Basic.lean
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Projection/Basic.lean:1]: can you split this file off as its own PR since now this is independent of the other result?

Comment (bocowgill) [reply Mathlib/Analysis/InnerProductSpace/Projection/Basic.lean:1]: Yes, happy to. I’ll split the two `Submodule` projection lemmas into an independent PR based directly on `master`, and leave this PR with only `Metric.exists_forall_dist_le_iff_forall_infDist_le`.

Comment (bocowgill) [reply Mathlib/Analysis/InnerProductSpace/Projection/Basic.lean:1]: Done, thanks! I moved the two projection lemmas to #43645, which is based directly on `master` and does not depend on this PR. #42483 now contains only `Metric.exists_forall_dist_le_iff_forall_infDist_le`.

File: Mathlib/Topology/MetricSpace/HausdorffDistance.lean [hunk 6]
```diff
@@ -510,6 +510,25 @@ lemma le_infDist {r : ℝ} (hs : s.Nonempty) : r ≤ infDist x s ↔ ∀ ⦃y⦄
...
+  refine ⟨fun ⟨u, huU, hmin⟩ a' ha'A ↦ ?_, fun h ↦ ?_⟩
+  · rw [le_infDist ⟨u, huU⟩]
+    intro u' hu'U
+    exact (infDist_le_dist_of_mem huU).trans (hmin u' hu'U a' ha'A)
+  · obtain ⟨u, huU, hu⟩ := hattain
+    refine ⟨u, huU, fun u' hu'U a' ha'A ↦ ?_⟩
+    calc
+      dist a u = infDist a U := hu.symm
+      _ ≤ infDist a' U := h a' ha'A
+      _ ≤ dist a' u' := infDist_le_dist_of_mem hu'U
```
Comment (j-loreaux) [inline Mathlib/Topology/MetricSpace/HausdorffDistance.lean:530]: This is a pretty weird lemma, as you have written it, as it's really got next-to-nothing to do with a single set `U`, and you could just as well have used `U` and `V`. And moreover, `a` is not really connected to `A` at all? In other words, I have no idea why you might want this. I suspect that this is any xy-problem, and there's a better way to do whatever you want this for.

In addition, the `∃ u ∈ U` is repeated unnecessarily, because the `u` you have in the hypothesis can be used in the statement. And when you start writing it in this form, you start to ask, "what's the point?"
```suggestion
    {A U V : Set α} (hV : V.Nonempty) {a u : α} (hu : u ∈ U) (hau : infDist a U = dist a u) :
    (∀ u' ∈ V, ∀ a' ∈ A, dist a u ≤ dist a' u') ↔
      ∀ a' ∈ A, infDist a U ≤ infDist a' V := by
  refine ⟨fun hmin a' ha'A ↦ ?_, fun h ↦ ?_⟩
  · rw [le_infDist hV]
    intro u' hu'U
    exact (infDist_le_dist_of_mem hu).trans (hmin u' hu'U a' ha'A)
  · refine fun u' hu' a' ha'A↦ ?_
    calc
      dist a u = infDist a U := hau.symm
      _ ≤ infDist a' V := h a' ha'A
      _ ≤ dist a' u' := infDist_le_dist_of_mem hu'
```

**Review by j-loreaux — COMMENTED** [review]
Please close the PR if you agree with my assessment that this is not a useful lemma.

File: Mathlib/Topology/MetricSpace/HausdorffDistance.lean (hunk 6 above)
Comment (bocowgill) [reply Mathlib/Topology/MetricSpace/HausdorffDistance.lean:530]: Thanks. I agree the generic metric statement isn't the right final API. This started as a concrete Hilbert-space FWL/partialling-out result and became more abstract during review.

Would you be okay with replacing it here with a focused Hilbert-space FWL/least-squares theorem, in the appropriate file, using the projection API from #43645? If that's too large a change in scope, I'm happy to close this PR and open a fresh one instead.

Comment (j-loreaux) [reply Mathlib/Topology/MetricSpace/HausdorffDistance.lean:530]: I'm not saying it's too abstract. I'm saying the statement isn't useful. So if you have a more specific statement, I suspect it will also not be useful? But to know for sure I would need to see the statement you have in mind. So, what is it that you have in mind?

Comment (bocowgill) [reply Mathlib/Topology/MetricSpace/HausdorffDistance.lean:530]: Here is the statement I had in mind; the name is provisional:

```lean
theorem exists_forall_norm_sub_add_apply_le_iff_forall_norm_starProjection_sub_apply_le
    [NormedAddCommGroup G] [NormedSpace 𝕜 G]
    (U : Submodule 𝕜 E) [U.HasOrthogonalProjection]
    (B : G →L[𝕜] E) (y : E) (z : G) :
    (∃ u : U, ∀ (u' : U) (z' : G),
      ‖y - ((u : E) + B z)‖ ≤ ‖y - ((u' : E) + B z')‖) ↔
      ∀ z' : G,
        ‖Uᗮ.starProjection y - (Uᗮ.starProjection.comp B) z‖ ≤
          ‖Uᗮ.starProjection y - (Uᗮ.starProjection.comp B) z'‖
```

Here `U` represents a nuisance block: regressors included in the model, but whose coefficients are not the current object of interest. Only their fitted-value subspace matters when optimizing over them. The map `B` represents the remaining block of regressors.

The left side says that `z` can be completed to a joint least-squares minimizer. The right side says that `z` minimizes the problem obtained by residualizing both `y` and `B` against `U`.

Taking `U = A.range` gives the usual two-block formulation with fitted values `A h + B z`. The witness on the left is the projection of `y - B z` onto `U`.

The result is useful because it eliminates the nuisance block without requiring unique coefficients, injectivity, or finite dimensionality. Later proofs can work with the residualized operator and reuse Mathlib’s existing single-operator least-squares API. In particular, the existing adjoint criterion turns the right side into the residualized normal equation

```lean
((Uᗮ.starProjection.comp B)†)
  (Uᗮ.starProjection y - (Uᗮ.starProjection.comp B) z) = 0.
```

I checked these statements in Lean against the current projection and adjoint APIs. I would replace the generic metric theorem with this result and put it in a focused least-squares file. Does this look useful?

Comment (j-loreaux) [reply Mathlib/Topology/MetricSpace/HausdorffDistance.lean:530]: https://www.pangram.com/history/a26d2611-5061-4e10-825e-c1220f1ddac7?ucc=6qlmgqDQrGG

Responding on GitHub with AI violates our code of conduct. It read like AI to me, so I checked. 

https://www.pangram.com/history/7eef4416-53f3-4d97-911c-d77d1b8a2d48?ucc=6qlmgqDQrGG

Either you're using an AI to reply on GitHub, or you've doesn't so much time using AI that you write in a way indistinguishable from one.
